US06057316
Benzo[b]thiophen-2-yl-(2,3-dimethyl-furan-5-yl)-methanol
n-Butyl lithium (2.5 N in hexanes, 32.2 mL, 80.5 mmol) was added to a stirred solution of thianaphthene (10.6 g, 78.9 mmol) in THF (290 mL) at -78° C. After 15 min., a solution of 4,5-dimethyl-2-furaldehyde (9.79 g, 78.9 mmol) in THF (10 mL) was added. After additional 1 hour, the reaction mixture was quenched with 10% aqueous ammonium chloride (150 mL) and further diluted with water (150 mL). Aqueous mixture was extracted with dichloromethane. The combined dichloromethane extracts were washed with water, dried with brine and anhydrous Na2SO4, and concentrated to provide the title compound as an yellow oil (20.84 g, 100%): NMR (DMSO-d6); δ7.89 (d, J=8 Hz, 1H), 7.76 (d, J=8, Hz, 1H), 7.35-7.26 (m, 2H), 7.25 (s, 1H), 6.36 (s, 1H), 6.08 (s, 1H), 5.92 (s, 1H), 2.13 (s, 3H), 1.86 (s, 3H); MS (EI): [M+], 258.

reactant | n-Butyl lithium | 80.5 mmol, 2.5 N, 32.2 mL | C(CCC)[Li]
reactant | thianaphthene | 78.9 mmol, 10.6 g | C=1C=CC2=C(C1)C=CS2 | C8H6S
reactant | 4,5-dimethyl-2-furaldehyde | 78.9 mmol, 9.79 g | CC=1C=C(OC1C)C=O | C7H8O2
solvent | THF | 290 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Benzo[b]thiophen-2-yl-(2,3-dimethyl-furan-5-yl)-methanol | 20.84 g, 100% | S1C2=C(C=C1C(O)C1=CC(=C(O1)C)C)C=CC=C2 | C15H14O2S
